*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1350-631
* Inductance = 630nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt XAL1350-631_freq port1 port2 PARAMS: Cpar=17.2pF Ind=0.66uH
X1 port1 port2 Model1A PARAMS:
+ R1=14.5
+ R2=0.0015
+ C= {Cpar}
+ K1=0.000042
+ K2=0.093
+ K3= {Ind}
+ K4=0.0018
+ K5=0.000006
+ L=6.453E-07
+ Is=165.7757
+ a=0.6543
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=513.352483
.ends XAL1350-631_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1350-631
* Inductance = 630nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt XAL1350-631_sat port1 port2 PARAMS: Cpar=16.935pF Ind=0.66uH
X1 port1 port2 Model1C PARAMS:
+ R1=14.5
+ R2=0.0015
+ C= {Cpar}
+ K1=0.000042
+ K2=0.093
+ K3= {Ind}
+ K4=0.0018
+ K5=0.000006
+ L=6.453E-07
+ Is=165.7757
+ a=0.6543
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=513.352483
.ends XAL1350-631_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1350-931
* Inductance = 930nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt XAL1350-931_freq port1 port2 PARAMS: Cpar=19pF Ind=0.93uH
X1 port1 port2 Model1A PARAMS:
+ R1=7.7
+ R2=0.002
+ C= {Cpar}
+ K1=0.000042
+ K2=0.141
+ K3= {Ind}
+ K4=0.0018
+ K5=0.000006
+ L=9.434E-07
+ Is=152.7464
+ a=0.6375
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=761.202359
.ends XAL1350-931_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1350-931
* Inductance = 930nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt XAL1350-931_sat port1 port2 PARAMS: Cpar=18.8pF Ind=0.93uH
X1 port1 port2 Model1C PARAMS:
+ R1=7.7
+ R2=0.002
+ C= {Cpar}
+ K1=0.000042
+ K2=0.141
+ K3= {Ind}
+ K4=0.0018
+ K5=0.000006
+ L=9.434E-07
+ Is=152.7464
+ a=0.6375
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=761.202359
.ends XAL1350-931_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1350-132
* Inductance = 1.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-80MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt XAL1350-132_freq port1 port2 PARAMS: Cpar=23pF Ind=1.3uH
X1 port1 port2 Model1A PARAMS:
+ R1=6
+ R2=0.025
+ C= {Cpar}
+ K1=0.00004
+ K2=0.22
+ K3= {Ind}
+ K4=0.00189
+ K5=0.000006
+ L=1.4279E-06
+ Is=126.7146
+ a=0.6121
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1050.78725
.ends XAL1350-132_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1350-132
* Inductance = 1.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-80MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt XAL1350-132_sat port1 port2 PARAMS: Cpar=22.827pF Ind=1.3uH
X1 port1 port2 Model1C PARAMS:
+ R1=6
+ R2=0.025
+ C= {Cpar}
+ K1=0.00004
+ K2=0.22
+ K3= {Ind}
+ K4=0.00189
+ K5=0.000006
+ L=1.4279E-06
+ Is=126.7146
+ a=0.6121
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1050.78725
.ends XAL1350-132_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1350-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-80MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt XAL1350-222_freq port1 port2 PARAMS: Cpar=25.4pF Ind=2.2uH
X1 port1 port2 Model1A PARAMS:
+ R1=5
+ R2=0.00000416
+ C= {Cpar}
+ K1=0.00004
+ K2=0.4
+ K3= {Ind}
+ K4=0.00189
+ K5=0.000006
+ L=2.4825E-06
+ Is=105.7735
+ a=0.5867
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1662.96399
.ends XAL1350-222_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1350-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-80MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt XAL1350-222_sat port1 port2 PARAMS: Cpar=25.294pF Ind=2.2uH
X1 port1 port2 Model1C PARAMS:
+ R1=5
+ R2=0.00000416
+ C= {Cpar}
+ K1=0.00004
+ K2=0.4
+ K3= {Ind}
+ K4=0.00189
+ K5=0.000006
+ L=2.4825E-06
+ Is=105.7735
+ a=0.5867
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1662.96399
.ends XAL1350-222_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1350-302
* Inductance = 3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-60MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt XAL1350-302_freq port1 port2 PARAMS: Cpar=19.9pF Ind=3uH
X1 port1 port2 Model1A PARAMS:
+ R1=5
+ R2=0.00586
+ C= {Cpar}
+ K1=0.00004
+ K2=0.56
+ K3= {Ind}
+ K4=0.00189
+ K5=0.000006
+ L=3.0683E-06
+ Is=101.5211
+ a=0.5772
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2338.48884
.ends XAL1350-302_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : XAL1350-302
* Inductance = 3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-60MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt XAL1350-302_sat port1 port2 PARAMS: Cpar=19.84pF Ind=3uH
X1 port1 port2 Model1C PARAMS:
+ R1=5
+ R2=0.00586
+ C= {Cpar}
+ K1=0.00004
+ K2=0.56
+ K3= {Ind}
+ K4=0.00189
+ K5=0.000006
+ L=3.0683E-06
+ Is=101.5211
+ a=0.5772
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2338.48884
.ends XAL1350-302_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Saturation Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   Current Saturable Inductor Model
*======================================================================
.subckt Model1C Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ L=1
+ Is=1
+ a=1
+ PkZ=94.2 * {L} *1e6
R2 Lin N001 {R2}
R3 N001 Lout {PkZ}
C1 N001 N002 {C}
R1 N002 Lout {R1}
L1 N001 Lout flux={L*Is}*pwrs(tanh(pwrs((x/{Is}),{a})),{1/a})
.ends Model1C





*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Power Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model1A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K2=1
+ K3=1
+ K4=1
+ K5=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar2 N001 Lout LAPLACE { V(N001, Lout) } {1/K2/(-S*S/4/PI^2)^0.25}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
G_Lvar N003 Lout  LAPLACE { V(N003, Lout) } {1/(S*1e-6*({K3*1e6}-({K4}*LOG({K5}*(sqrt(-S*S)/(2*pi))))))}
*This large resistance to ground has been added to prevent a floating node error
R3 N003 0 100Meg
.ends Model1A


.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
